US07439379B2
To a solution of 2-(2,3,4,5-tetramethylcyclopentadienyl)benzonitrile (6.3 mmol) in tetrahydrofuran (25.5 mL) was added dropwise a solution of 2,4,6-trimethylphenyllithium (12.5 mmol) in tetrahydrofuran (55.6 mL) at −78° C. under a nitrogen atmosphere. The temperature of the mixture was raised to room temperature and the mixture was stirred for 5 hrs. To the reaction mixture solution were added toluene and water to separate an organic layer and an aqueous layer. The organic layer was dried and the solvent was distilled off to give 2-(2,3,4,5-tetramethylcyclopentadienyl)-α-(2,4,6-trimethylphenyl) -benzenemethanimine (2.34 g) as a brown oily substance.

reactant | 2-(2,3,4,5-tetramethylcyclopentadienyl)benzonitrile | 6.3 mmol | CC=1C(C(=C(C1C)C)C)C1=C(C#N)C=CC=C1 | C16H17N
reactant | 2,4,6-trimethylphenyllithium | 12.5 mmol | CC1=C(C(=CC(=C1)C)C)[Li]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | tetrahydrofuran | 25.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 55.6 mL | O1CCCC1 | C4H8O
product | 2-(2,3,4,5-tetramethylcyclopentadienyl)-α-(2,4,6-trimethylphenyl) -benzenemethanimine | 2.34 g | CC=1C(C(=C(C1C)C)C)C1=C(C=CC=C1)C(=N)C1=C(C=C(C=C1C)C)C | C25H29N
